US06316466B1
Proceeding as described in Example 1, step 2, but replacing 2-(3-bromobenzoyl)acetonitrile with 2-(6-quinolinoyl)acetonitrile and substituting 4-fluorophenylhydrazine in step 3 with 2,4-difluorophenylhydrazine was obtained 5-amino-1-(2,4-difluorophenyl)-4-(6-quinolinoyl)-pyrazole.HCl I 17) (mpt. 220-259.2).

reactant | 2-(6-quinolinoyl)acetonitrile | N1=CC=CC2=CC(=CC=C12)C(=O)CC#N | C12H8N2O
reactant | 4-fluorophenylhydrazine | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | 2,4-difluorophenylhydrazine | FC1=C(C=CC(=C1)F)NN | C6H6F2N2
product | 5-amino-1-(2,4-difluorophenyl)-4-(6-quinolinoyl)-pyrazole | NC1=C(C=NN1C1=C(C=C(C=C1)F)F)C(=O)C=1C=C2C=CC=NC2=CC1 | C19H12F2N4O
